US05635510
50.1 Synthesis of 8-benzyl-1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]decane-2,4-dione
Combine 1-benzyl-4-(4-fluoro-phenylamino)-piperidine-4-carbonitrile (32 mmol) and dichloromethane (100 mL). Add chlorosulfonyl isocyanate (20 mmol) in dropwise fashion with water bath cooling so as to maintain the temperature of the reaction mixture between 20° and 30° C. After 30 minutes, concentrate the reaction mixture in vacuo to obtain a residue. Add 1N HCl (100 mL) and heat at reflux for 1 h. Cool in an ice bath and adjust the pH to 5.5 using 5N NaOH. Filter to obtain a residue. Wash with diethyl ether and dry in vacuo. Purify to obtain the title compound.

reactant | 1-benzyl-4-(4-fluoro-phenylamino)-piperidine-4-carbonitrile | 32 mmol | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)NC1=CC=C(C=C1)F | C19H20FN3
reactant | chlorosulfonyl isocyanate | 20 mmol | ClS(=O)(=O)N=C=O | CClNO3S
reactant | HCl | 1N, 100 mL | Cl | ClH
reactant | NaOH | 5N | [OH-].[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 8-benzyl-1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]decane-2,4-dione | C(C1=CC=CC=C1)N1CCC2(C(NC(N2C2=CC=C(C=C2)F)=O)=O)CC1 | C20H20FN3O2
